US07507740B2
Production of 2-[2-(4-{[3-chloro-4-(3-chlorophenoxy)phenyl]amino}-5H-pyrrolo[3,2-d]pyrimidin-5-yl)ethoxy]ethanol
A mixture of 2-[2-(4-chloro-5H-pyrrolo[3,2-d]pyrimidin-5-yl)ethoxy]ethyl benzoate (346 mg), 3-chloro-4-(3-chlorophenoxy)aniline (280 mg) and 1-methyl-2-pyrrolidone (3 mL) was stirred at 120° C. for 2 hrs. Water and saturated aqueous sodium hydrogen carbonate solution were added to the reaction mixture and the mixture was extracted with ethyl acetate. The ethyl acetate layer washed successively with water and saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was subjected to silica gel column chromatography (eluent, ethyl acetate:hexane=30:70→100:0). The object fraction was concentrated under reduced pressure. To a solution of the residue (431 mg) in methanol (10 mL) was added 1N aqueous sodium hydroxide solution (1 mL), and the mixture was stirred at room temperature for 4 hrs. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The ethyl acetate layer washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was crystallized from ethyl acetate-diethyl ether to give the title compound (312 mg) as a white powder.

reactant | 2-[2-(4-chloro-5H-pyrrolo[3,2-d]pyrimidin-5-yl)ethoxy]ethyl benzoate | 346 mg | C(C1=CC=CC=C1)(=O)OCCOCCN1C=CC=2N=CN=C(C21)Cl | C17H16ClN3O3
reactant | 3-chloro-4-(3-chlorophenoxy)aniline | 280 mg | ClC=1C=C(N)C=CC1OC1=CC(=CC=C1)Cl | C12H9Cl2NO
reactant | 1-methyl-2-pyrrolidone | 3 mL | CN1C(CCC1)=O | C5H9NO
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | Water | O | H2O
product | 2-[2-(4-{[3-chloro-4-(3-chlorophenoxy)phenyl]amino}-5H-pyrrolo[3,2-d]pyrimidin-5-yl)ethoxy]ethanol | 312 mg | ClC=1C=C(C=CC1OC1=CC(=CC=C1)Cl)NC=1C2=C(N=CN1)C=CN2CCOCCO | C22H20Cl2N4O3
